US07888364B2
1.3 mL of methanesulfonyl chloride was slowly added to a solution of 2 g of 1-Boc-piperazine and 1.3 mL of pyridine in 6 mL of dichloromethane at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 2 h while being monitored by TLC. Upon completion, the mixture was diluted with dichloromethane, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatograph (20-100% ethyl acetate/hexane) to afford tert-butyl-4-(methylsulfonyl)piperazine-1-carboxylate. 930 mg of tert-butyl-4-(methylsulfonyl)piperazine-1-carboxylate was treated with 4N HCl in dioxane for 2 h. The reaction mixture was evaporated to give the HCl salt of 1-(methylsulfonyl)piperazine. Procedure F was performed using 50 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide, 69 mg of 1-(methylsulfonyl)piperazine and DEPA (1 eq) in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(4-(methylsulfonyl)piperazin-1-yl)nicotinamide. MS (Q1) 486.3 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 50 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | 1-(methylsulfonyl)piperazine | 69 mg | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(4-(methylsulfonyl)piperazin-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)N1CCN(CC1)S(=O)(=O)C)C)=O)C1=NC=CC=C1 | C23H24ClN5O3S
